Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultram / Neurontin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with newly diagnosed locally advanced pancreatic
cancer.
Patient has long standing history of chronic abdominal pain and
neck pain with opioid misuse. He has most recently been taking
oxycodone 15mg q6 hours (prescribed by his PCP) and fentanyl
powder purchased off the ___. Last used yesterday.
He was subsequently diagnosed with pancreatic cancer in 
___ after following off a ladder. He established care with 
___
oncology on ___. Initial plan was for neo-adjuvant
chemo-radiation with re-evaluation for surgical resection
afterwards. However, given his difficult social situation,
chronic HCV, poorly controlled pain and opioid abuse, and very
poor IV access, plan was to admit patient for stabilization of
these issues before initiating cancer directed care. He was 
going
to be admitted last weekend, but returned home instead. He now
presents to the ED with worsening abdominal pain along with
nausea. He denies any fevers, shortness of breath, diarrhea,
dysuria, or rashes.
In the ED, initial VS were pain 8, T 98.4, HR 77, BP 127/76, RR
18, O2 98%RA. Initial labs notable for Na 142, K 4.6, HCO3 32, 
Cr
0.6, ALT 20, AST 23, ALP 80, TBili 0.2, Alb 4.2, Lipase 32, WBC
9.5, HCT 42.1, PLT 203, INR 1.0, UA negative, lactate 1.1.
Patient was given NS, IV morphine, and a nicotine patch. VS 
prior
to transfer were pain 5, T 97.3, HR 60, BP 131/84, RR 18, O2
100%RA.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
PAST ONCOLOGIC HISTORY:
Mr. ___ was seen in OSH ED on ___ after a 40 ft fall off of
a ladder with a safety harness.  CT AP done, showing a 4.8cm 
mass
in the pancreatic tail, highly s/f malignancy, MRI suggested. 
MRI
A on ___ was limited d/t lack of contrast-unable to get IV
access, but showed a mild central intra and extrahepatic biliary
ductal dilatation, with suggestion of a 3mm obstructive stone or
asymmetric stricture in the distal CBD.  There is a 6cm 
irregular
mass at the tail of the pancreas, s/f malignancy.  Referred to
Dr. ___ on ___, referred him to ___ and an EUS with Dr.
___ on ___ showed a 4cm ill-defined mass in the tail of the
pancreas.  Borders are irregular and poorly defined.  The bile
duct was imaged at the level of the porta hepatic, HOP and
ampulla with a maximum diameter of 8.7mm. FNB performed,
revealing Adenocarcinoma.
- ___: Established care with ___ oncology. Plan for
neoadjuvant chemoradiation with re-evaluation for surgical
resection afterwards. However, given his difficult social
situation and pain, plan was to defer treatment until inpatient
admission for better control of these situations.

 
Past Medical History:
PAST MEDICAL HISTORY: 
- Hepatitis C (untreated)
- Depression/anxiety
- Multiple shoulder arthroscopies
- L5-S1 laminectomies (___)
- Bilateral carpal tunnel releases
- Inguinal hernia repair
- Opioid abuse/dependence
- Poor IV access d/t past IV drug use

 
Social History:
___
Family History:
Father- Lung ___ over age ___ 
Mother- Head and Neck Ca- over age ___
Uncle- ___ over age ___
Uncle Head and Neck-over age ___
 
Physical Exam:
DISCHARGE EXAM:
98.9 F, 136 / 86 BP, 72 HR, 18 RR, 96% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.
GI: Abdomen soft, non-distended, non tender to palpation in
epigastrum.  Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.

 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 08:07    6.8 4.71 14.0 43.0 91 29.7 32.6 13.3 45.1 
204 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 08:07    ___ 1422 4.7 ___ 
ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 21:00    20 23     80   0.2   
VIRAL LOADS HCV VL 
___ 08:07    PND 
HEPATITIS C SEROLOGY HCV Ab 
___ 08:07    POS*1 
 
 HIV SEROLOGY HIV Ab 
___ 08:07    NEG1 
HEPATITIS HBsAg HBsAb HBcAb 
___ 08:07    NEG POS1 NEG 
Collection Date Tests Result 
___ 08:07    CA ___  PND 

======
___HEST W/CONTRAST 
IMPRESSION:  
  
Mild gynecomastia. 
  
Otherwise normal chest CT.  No evidence of intrathoracic 
malignancy. 
======
___ Imaging CTA ABD & PELVIS 
 
FINDINGS:  
  
LOWER CHEST: Please refer to separate report of CT chest 
performed on the same 
day for description of the thoracic findings. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation. The gallbladder is within 
normal limits. 
  
 PANCREATIC CANCER STAGING: 
  
Morphologic Evaluation 
Appearance (in the pancreatic parenchymal phase): 
hypoattenuating 
Size (maximal axial dimension in cm): 4.7 cm 
Location (head right of SMV, body left of SMV): body/tail 
Pancreatic duct narrowing/abrupt cutoff with or without upstream 
dilatation: 
absent 
Biliary tree abrupt cutoff with or without upstream dilatation: 
absent 
  
Arterial evaluation 
  
SMA involvement: absent 
  
Celiac Axis involvement: absent 
Common hepatic artery involvement: absent 
There is soft tissue encasement of the distal splenic artery 
which is 
attenuated in caliber. 
  
Variant anatomy: none 
Variant vessel contact: absent 
Degree of solid soft-tissue contact: <=180° 
Degree of increased hazy attenuation/stranding contact: <=180° 
Focal vessel narrowing or contour irregularity: Absent 
  
Venous evaluation 
  
MPV involvement: absent 
  
SMV involvement: absent 
There is encasement of the distal splenic vein which is not 
visualized and 
likely occluded. 
Venous collaterals: left upper quadrant collaterals 
  
Extrapancreatic evaluation 
Liver lesions: absent 
Peritoneal or omental nodules: absent 
Ascites: absent 
Suspicious lymph nodes: absent 
Other extrapancreatic disease (invasion of adjacent structures): 
present 
The mass abuts the posterior aspect of the stomach with 
obliteration of the 
intervening fat plane (series 10, image 35). The mass also comes 
in close 
proximity to the posterior wall of the proximal descending colon 
with 
preservation of a thin intervening fat plane but strands of soft 
tissue is 
noted extending to the outer colonic wall (series 10, image 33) 
without gross 
invasion. The mass is in close proximity to the splenic hilum 
with 
preservation of the intervening fat plane. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of solid focal renal lesions. Subcentimeter 
hypodensity 
in the lower pole of the left kidney is too small to 
characterize but likely 
represents a cyst. There is no hydronephrosis. There is no 
perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable. Small bowel loops 
demonstrate 
normal caliber, wall thickness, and enhancement throughout. The 
colon and 
rectum are within normal limits. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The reproductive organs are unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy. There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: 
There is no abdominal aortic aneurysm. Mild atherosclerotic 
disease is noted. 
See assessment of the mesenteric vasculature detailed above. 
  
BONES: There is no expansile lytic or destructive bone lesion. 
Small 
sclerotic lesions in the right sacrum and iliac bone are 
unchanged and likely 
benign. 
  
SOFT TISSUES: Note is made of prior right inguinal hernia 
repair. 
  
IMPRESSION: 
  
  
1. Pancreatic tail mass with involvement of the distal splenic 
artery and 
occlusion of the distal splenic vein. The mass is inseparable 
from the 
posterior aspect of the stomach suspicious for involvement of 
the gastric 
serosa. Strands of soft tissue also extend to the posterior 
aspect of 
proximal descending colon without evidence of gross invasion. 
2. No evidence of metastatic disease in the abdomen and pelvis. 

 
Brief Hospital Course:
___ year old man with history of opioid dependence, past IVDA
(heroin), chronic HCV, with newly diagnosed locally advanced
pancreatic cancer admitted with abdominal pain.

He was seen by his oncology team and palliative care team for 
pain management. He had his oxycodone titrated to 15 mg q4h prn 
and addition of fentanyl patch q72h at 100 mcg/hr. 
His citalopram was uptitrated to 20 mg once daily.
He had pancrelipase added as a trial in case of pancreatic 
insufficiency as cause of some of his pain.
The patient has an existing pain contract with his PCP, ___. 
___. The hospitalist contacted her office and found she 
was unavailable, so her covering physician ___ was 
notified, who sent a message to Dr. ___. In the interim upon 
discharge, a limited with no-refill prescription of his pain 
regimen was provided that would last until his upcoming 
appointment this ___.
The patient has also a pain specialist he already sees, Dr. 
___ which he will attend his follow up appointment on 
___ ___s an outpatient, there was concern about IV access, and he did 
not have contrast with his imaging (MRI and CT) for his 
pancreatic cancer. Therefore there was a suggestion of PICC 
placement, but a 20 gauge PIV was obtained and lab draws were 
performed with ease while patient was hospitalized, so PICC was 
not placed. He was able to get a CT chest (did not show evidence 
of metastases) and CT abdomen with pelvis with contrast 
(Pancreatic tail mass with involvement of the distal splenic 
artery and  occlusion of the distal splenic vein. The mass is 
inseparable from the 
posterior aspect of the stomach suspicious for involvement of 
the gastric 
serosa. Strands of soft tissue also extend to the posterior 
aspect of  proximal descending colon without evidence of gross 
invasion. No evidence of metastatic disease in the abdomen and 
pelvis).
CA ___ was pending at time of discharge.

He was seen by social work, and was determined that patient 
stated he had a plan to avoid eviction and come up with funds by 
___ for his place of living, but preferred not to disclose 
details.

He also had reported chronic HCV infection and treatment naïve. 
He had HCV Ab positive, but HCV viral load still pending at time 
of discharge. The hepatology team was notified and will arrange 
outpatient follow up if results show he has a chronic infection. 


In summary, in terms of follow up for his pancreatic cancer, he 
will be contacted by the ___ clinic for the next 
appointment after discharge.

The total time spent today on discharge planning, counseling and 
coordination of care today was 35 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. OxyCODONE (Immediate Release) 15 mg PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*180 Tablet Refills:*0 
2.  Creon 12 3 CAP PO TID W/MEALS 
RX *lipase-protease-amylase [Creon] 12,000 unit-38,000 
unit-60,000 unit 3 capsule(s) by mouth three times a day Disp 
#*270 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Fentanyl Patch 100 mcg/h TD Q72H 
RX *fentanyl 100 mcg/hour Apply 1 patch q72h Disp #*2 Patch 
Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tablet by mouth twice a day Disp #*60 
Tablet Refills:*0 
6.  Citalopram 20 mg PO DAILY 
RX *citalopram [Celexa] 10 mg 2 tablet(s) by mouth once daily 
Disp #*60 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Mr. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You were admitted to obtain a CT scan with IV contrast in 
regards to your pancreatic cancer, and for pain control.

====================================
What happened at the hospital? 
====================================

-You were seen by our palliative care team's pain specialist and 
you had changes made to your pain regimen.
-You were seen by our oncology team, and had labs drawn to 
determine if you have a chronic HCV infection. The lab results 
are pending at time of discharge. 
-Our liver specialists, medical oncologist, and surgical 
oncologists will call you with the necessary appointments for 
follow up, depending on the results of the labs drawn and final 
CT scan results.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-You will need to continue to follow up with your PCP and pain 
specialist. Your pain contract is with your PCP, and you must 
follow up with her to receive appropriate refills of pain 
medications.
-Your CT scan and hepatitis C lab results will be reviewed by 
your oncology team. You will be contacted by our specialists for 
the next follow up appointment date and time (see below).

* You were discharged with a prescription narcotic pain 
medication. This medication will help to make your pain 
tolerable. Please do not expect these medications to make your 
pain go completely away.
* As this prescription is a narcotic, YOU ___ while 
you are on this medication.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___